US07842826B2
Bromination Reaction of Fluorescein
With total consumption of the fluorescein, the bromination reaction leads to the formation of a single product, tetrabromofluorescein (4Br—F), the disodium salt of which is commercially known as Eosin Y. The final reaction mixture is diluted in water and the product is extracted from the mixture with ethyl acetate.

reactant | tetrabromofluorescein | C1=CC=C(C(=C1)C2=C3C=C(C(=O)C(=C3OC4=C(C(=C(C=C24)Br)[O-])Br)Br)Br)C(=O)[O-].[Na+].[Na+]
reactant | disodium | [Na][Na] | 2Na
reactant | Eosin Y | CC=1C(=CC2=C(C1Br)OC3=C(C(=O)C(=CC3=C2C=4C=CC=CC4C(=O)O)Br)Br)Br | C21H10Br4O4
solvent | water | O | H2O
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
